US07405300B2
Step 1: (1-oxypyridin-3-yl)acetonitrile
The title compound is prepared in accordance with the procedures as outlined in S. Okuda et al., J. Am. Chem. Soc., 81, 740, (1959). Peracetic acid (38%, 40 mL, 0.2 mol) is added to a stirred solution of 3-pyridylacetonitrile (15.0 g, 127 mmol) in acetic acid (75 mL) and the reaction is heated at 95° C. for 24 hr, then stirred at room temperature for 24 hr. Water is added and the solvents are removed. More water (100 mL) is added and again removed. This process is repeated with toluene and with ether to give (1-oxypyridin-3-yl)acetonitrile as a cream solid.

reactant | Peracetic acid | 0.2 mol, 40 mL | C(C)(=O)OO | C2H4O3
reactant | 3-pyridylacetonitrile | 127 mmol, 15.0 g | N1=CC(=CC=C1)CC#N | C7H6N2
reactant | Water | O | H2O
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
product | (1-oxypyridin-3-yl)acetonitrile | C1=CC(=C[N+](=C1)[O-])CC#N | C7H6N2O
